US07582626B2
k) 2-(4-Fluoro-benzylamino)-cyclopent-1-enecarboxylic acid ethyl ester
4-Fluorobenzylamine (12.1 g, 97.5 mmol) was added to a solution of 2-oxo-cyclopentanecarboxylic acid ethyl ester (15.25 g, 97.6 mmol) in toluene (225 mL) at 23° C. Glacial acetic acid (6.15 mL, 107 mmol) was then added, producing a large amount of white solid. The reaction mixture was heated to 70° C. in an oil bath, whereupon most of the solids dissolved. After stirring for 2 h at 70° C., a Dean-Stark apparatus and reflux condenser were fitted to the reaction flask and approximately 40 mL of liquid (predominantly toluene) was removed by distillation over 45 min (oil bath temperature=145° C.). The mixture was allowed to cool to 23° C. and was used in the next step. A small aliquot of the crude reaction mixture was concentrated under reduced pressure to afford the desired product, 2-(4-fluoro-benzylamino)-cyclopent-1-enecarboxylic acid ethyl ester as an orange oil: 1H NMR (CDCl3) δ: 1.28 (3H, t, J=7.5), 1.79-1.86 (2H, m), 2.51-2.56 (4H, m), 4.15 (2H, q, J=6.9), 4.34-4.36 (2H, m), 6.98-7.03 (2H, m), 7.19-7.23 (2H, m), 7.73 (1H, bs).

reactant | 4-Fluorobenzylamine | 97.5 mmol, 12.1 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 2-oxo-cyclopentanecarboxylic acid ethyl ester | 97.6 mmol, 15.25 g | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | acetic acid | 107 mmol, 6.15 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 225 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-fluoro-benzylamino)-cyclopent-1-enecarboxylic acid ethyl ester | C(C)OC(=O)C1=C(CCC1)NCC1=CC=C(C=C1)F | C15H18FNO2
